datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([C:21]([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31])[H:27])([H:25])[H:26]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][C:21]([C:20](=[C:19]([H:25])[H:26])[H:27])([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31],103.763
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[S:15])[H:22])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([C:11]([H:16])([H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[S:15])[H:22],99.1608
[H:0].[N:1]([H:2])[H:3]>>[H:0][H:2].[N:1][H:3],33.221
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])([H:20])[H:21])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([H:20])([H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:13])([H:11])[H:12],138.449
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][C:17](=[C:18]([H:20])[H:21])[H:19],75.312
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[O:5][O:6][H:17])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[O:5]1.[O:6][H:17],67.7808
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[C:15](=[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])[H:21])([H:19])[H:20]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:17]([C:16](=[C:15]([H:19])[H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])([H:7])[H:8],61.9232
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([S:8][H:18])[c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])([H:15])([H:16])[H:17]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7]([C:6]([H:15])([H:16])[H:17])([S:8][H:18])[c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23],55.6472
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22],65.7306
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([S:16][H:23])([C:17](=[S:18])[H:24])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:22])[H:7])([H:5])[H:6].[C:14]([C:15]([S:16][H:23])[C:17](=[S:18])[H:24])([H:19])([H:20])[H:21],21.7568
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8][C:9](=[S:10])[H:13])([H:11])[H:12]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8](=[C:7]([H:11])[H:12])[C:9](=[S:10])[H:13],72.8016
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:24])[H:25])[H:23])=[C:17]([C:18]([H:26])([H:27])[H:28])[C:19]([H:29])([H:30])[H:31])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:20])[H:21])[H:22])([C:15](=[C:16]([H:24])[H:25])[H:23])[C:17]([C:18]([H:26])([H:27])[H:28])[C:19]([H:29])([H:30])[H:31])[H:5],42.0492
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][O:14][H:15]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:13][O:14][H:15],68.99416
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:5])([H:6])[H:7].[O:13][H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:6])[H:7].[H:5][O:13][H:14],-3.460598952
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:7])([H:5])[H:6],59.1618
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]=[S:10])[H:13])([H:11])[H:12]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])=[S:10],67.7808
